US07473786B1
2-(2-Methoxy-phenyl)-benzo[b]furan (entry 4, Table 2):
The general procedure was used to convert 2-ethynyl-anisole and 2-iodophenol to the title product. Purification by flash chromatography (10% ethyl acetate in hexanes as the eluent) gave the analytically pure product as a white solid (348 mg, 77% yield). 1H NMR (300 MHz, CDCl3) δ 8.05 (d, J=7.73, 1H), 7.58 (d, J=6.41, 1H), 7.48 (d, J=8.10, 1H), 7.34 (s, 1H), 7.26-7.18 (m, 3H), 7.03 (t, 1H), 6.89 (d, J=8.29, 1H), 3.86 (s, 3H). 13C NMR (75 MHz, CDCl3) δ 156.42, 153.83, 152.15, 129.77, 129.20, 126.95, 124.08, 122.62, 121.01, 120.69, 119.25, 110.93, 110.78, 106.31, 55.87. Anal. Calcd. for C15H12O2: C, 80.34; H, 5.39. Found C, 80.60; H, 5.65. m.p.: 76° C.

reactant | 2-ethynyl-anisole | C(#C)C1=C(C=CC=C1)OC | C9H8O
reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
product | 2-(2-Methoxy-phenyl)-benzo[b]furan | COC1=C(C=CC=C1)C1=CC2=C(O1)C=CC=C2 | C15H12O2
